US06297239B1
Step C: Preparation of 3-{2-Cyano-5-[1-hydroxy-1-(3-methyl-3H-imidazol-4-yl)-ethyl]-phenoxy}-N-ethyl-N-phenyl-benzamide
2-Fluoro-4-[1-hydroxy-1-(3-methyl-3H-imidazol-4-yl)-ethyl]-benzonitrile (0.054 g, 0.220 mmol), N-ethyl-3-hydroxy-N-phenyl-benzamide (0.053 g, 0.220 mmol) and Cs2CO3 (0.143 g, 0.440 mmol) were dissolved in anhydrous DMF (5 mL) and heated at 60° C. under Ar for 4 days. The reaction was diluted with EtOAc, washed with satd. NaHCO3 solution, water, and brine. The organic layer was dried (MgSO4), concentrated and purified using SiO2 chromatography (1-3% MeOH/CH2Cl2) to give the title compound. FAB MS (M+1)=467.

reactant | 2-Fluoro-4-[1-hydroxy-1-(3-methyl-3H-imidazol-4-yl)-ethyl]-benzonitrile | 0.220 mmol, 0.054 g | FC1=C(C#N)C=CC(=C1)C(C)(C=1N(C=NC1)C)O | C13H12FN3O
reactant | N-ethyl-3-hydroxy-N-phenyl-benzamide | 0.220 mmol, 0.053 g | C(C)N(C(C1=CC(=CC=C1)O)=O)C1=CC=CC=C1 | C15H15NO2
reactant | Cs2CO3 | 0.440 mmol, 0.143 g | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 3-{2-Cyano-5-[1-hydroxy-1-(3-methyl-3H-imidazol-4-yl)-ethyl]-phenoxy}-N-ethyl-N-phenyl-benzamide | C(#N)C1=C(OC=2C=C(C(=O)N(C3=CC=CC=C3)CC)C=CC2)C=C(C=C1)C(C)(C=1N(C=NC1)C)O | C28H26N4O3
